US08623889B2
N-(7-(5-chloro-2-cyanophenyl)isoquinolin-3-yl)cyclopropanecarboxamide
A solution of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (200 mg, 0.68 mmol), 4-chloro-2-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)benzonitrile (205 mg, 0.816 mmol), cesium carbonate (0.22 g, 0.68 mmol) and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine) palladium dichloride (24.0 mg, 0.05 eq) in a mixture of acetonitrile and water (10 mL, 10:1) was purged with nitrogen and stirred at 90° C. for 45 minutes under microwave irradiation. Ethyl acetate (20 mL) was added to the reaction mixture and it was filtered. The solid was extracted with ethyl acetate (20 mL×4). The combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by HPLC separation to give the product (13.7 mg, 5.8%). LCMS (ESI): RT (min)=1.099, M+H+=347.9, method=A. 1H NMR (400 MHz, DMSO-d6) δ 11.04 (s, 1H), 9.24 (s, 1H), 8.54 (s, 1H), 8.33 (t, J=0.8 Hz, 1H), 8.08-7.72 (m, 5H), 2.09-2.05 (m, 1H), 0.88-0.83 (m, 4H).

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 0.68 mmol, 200 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 4-chloro-2-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)benzonitrile | 0.816 mmol, 205 mg | ClC1=CC(=C(C#N)C=C1)B1OCC(CO1)(C)C | C12H13BClNO2
reactant | cesium carbonate | 0.68 mmol, 0.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine) palladium dichloride | 24.0 mg, 0.05 eq | [Pd](Cl)Cl.C(C)(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.C(C)(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C
product | N-(7-(5-chloro-2-cyanophenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 13.7 mg, 5.8% | ClC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C#N | C20H14ClN3O
